US05965364
Triphosphates were synthesized by the method of Ludwig and Eckstein (J. Ludwig and F. Eckstein (1989) J. Org. Chem. 54, 631). 3'-O-Acetyl-5-(3-trifluoroacetamidopropyn-1-yl)-2'-deoxyuridine (0.1 mmol, 41.9 mg) was coevaporated with pyridine and dissolved in dry pyridine (0.1 mL)/dry 1,4-dioxane (0.3 mL). 2-Chloro-4H-1,3,2-benzodioxaphosphorin-4-one (1.1 equiv., 0.11 mL 1 M solution) was added. A precipitate was formed and the mixture was stirred for 10 min. Then, tributylammonium pyrophosphate (70 mg) in dry DMF (0.35 mL)/tributylamine (0.1 mL) was added, giving a clear solution which was stirred for 10 min. An 1% solution of iodine in pyridine/water 98:2 (2.2 mL) was added and the immediately decolorized solution was stirred for another 15 min. After addition of a few drops of a 5% Na2SO3 solution it was evaporated at room temperature, the residue taken up in water (5 mL) and stirred at room temperature for 30 min. Then, concentrated aqueous ammonia (20 mL) was added and the mixture stirred at 50° C. for 4 h. The organic solvents were removed by rotary evaporation at room temperature and the residue purified by column chromatography (Sephadex DEAE cellulose, previously equilibrated with TEAB buffer) using a 0.2 M-0.6 M gradient of triethylammonium bicarbonate (TEAB) buffer solution. The UV active fractions were evaporated at room temperature to yield 5-(3-aminopropyn-1-yl)-2'-deoxyuridine triphosphate, contaminated with some diphosphate.

reactant | 3'-O-Acetyl-5-(3-trifluoroacetamidopropyn-1-yl)-2'-deoxyuridine | 0.1 mmol, 41.9 mg | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(=C1)C#CCNC(C(F)(F)F)=O | C16H16F3N3O7
reactant | 2-Chloro-4H-1,3,2-benzodioxaphosphorin-4-one | 1 M, 0.11 mL, 1.1 equiv. | ClP1OC2=C(C(O1)=O)C=CC=C2 | C7H4ClO3P
reactant | tributylammonium pyrophosphate | 70 mg | [O-]P([O-])(=O)OP(=O)([O-])[O-].C(CCC)[NH+](CCCC)CCCC.C(CCC)[NH+](CCCC)CCCC.C(CCC)[NH+](CCCC)CCCC.C(CCC)[NH+](CCCC)CCCC
reactant | tributylamine | 0.1 mL | C(CCC)N(CCCC)CCCC | C12H27N
reactant | iodine | II | I2
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | 1,4-dioxane | 0.1 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 0.35 mL | CN(C)C=O | C3H7NO
solvent | pyridine water | 2.2 mL | N1=CC=CC=C1.O
product | 5-(3-aminopropyn-1-yl)-2'-deoxyuridine triphosphate | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)C#CCN)O | C12H18N3O14P3
